US06727264B1
N-(3-{1-[5-(4-CHLOROPHENOXY)-5-(4-FLUOROPHENYL)PENTYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure A and Scheme AN using 4-chlorophenol and N-(3-{1-[5-(4-fluorophenyl)-5-hydroxypentyl]-4-piperidinyl}phenyl)-2-methylpropanamide: ESMS m/e: 537.3 (M+H)+.

reactant | 4-chlorophenol | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | N-(3-{1-[5-(4-fluorophenyl)-5-hydroxypentyl]-4-piperidinyl}phenyl)-2-methylpropanamide | FC1=CC=C(C=C1)C(CCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)O | C26H35FN2O2
product | N-(3-{1-[5-(4-CHLOROPHENOXY)-5-(4-FLUOROPHENYL)PENTYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | ClC1=CC=C(OC(CCCCN2CCC(CC2)C=2C=C(C=CC2)NC(C(C)C)=O)C2=CC=C(C=C2)F)C=C1 | C32H38ClFN2O2
